US07943619B2
6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-[1,2,4]triazolo[4,3-b]pyridazine
To a solution of [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol (100 mg, 0.48 mmol) in DMF (2 mL) was added sodium hydride (55% dispersion in mineral oil, 23.2 mg, 0.53 mmol). The mixture was stirred at room temperature for 15 min. After addition of a solution of 6-chloro-1,2,4-triazolo[4,3-b]pyridazine (82 mg, 0.53 mmol) in DMF (3 mL) the mixture was stirred at room temperature overnight. Then the mixture was poured into water, extracted (ethyl acetate/water) and the organic phase was dried with sodium sulfate and concentrated. Chromatography (SiO2, heptane:ethyl acetate=100:0 to 9:1) afforded the title compound (80 mg, 51%) as a white solid. MS: m/e=326.0 [M+H]+.

reactant | [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 0.48 mmol, 100 mg | FC=1C=C(C=CC1)C1=NOC(=C1CO)C | C11H10FNO2
reactant | sodium hydride | 0.53 mmol, 23.2 mg | [H-].[Na+]
reactant | 6-chloro-1,2,4-triazolo[4,3-b]pyridazine | 0.53 mmol, 82 mg | ClC=1C=CC=2N(N1)C=NN2 | C5H3ClN4
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-[1,2,4]triazolo[4,3-b]pyridazine | 80 mg, 51% | FC=1C=C(C=CC1)C1=NOC(=C1COC=1C=CC=2N(N1)C=NN2)C | C16H12FN5O2
